US08236826B2
Production of ethyl 3-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}propionate
A solution of 3,4-dichlorobenzoyl chloride (3.65 g, 17.4 mmol) was added dropwise under ice cooling to a solution of ethyl 3-[4-(4-aminophenoxy)phenyl]propionate (4.52 g, 15.9 mmol) and triethylamine (2.65 mL, 19.0 mmol) in THF (80 mL), and the resulting solution was stirred for 1 hour at the same temperature. Water was added to the reaction mixture, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate and evaporated. The residue was recrystallized from water-containing ethanol to thereby yield 6.67 g of the title compound.

reactant | 3,4-dichlorobenzoyl chloride | 17.4 mmol, 3.65 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | ethyl 3-[4-(4-aminophenoxy)phenyl]propionate | 15.9 mmol, 4.52 g | NC1=CC=C(OC2=CC=C(C=C2)CCC(=O)OCC)C=C1 | C17H19NO3
reactant | triethylamine | 19.0 mmol, 2.65 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | ethyl 3-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}propionate | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)CCC(=O)OCC)C=C2)C=CC1Cl | C24H21Cl2NO4
